Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[O:12][H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.77748839181
[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-4.8280458828300015
[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],3.90436253636
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],2.73459908053
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],4.99070722622
[H:1][C:2][O:4][C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.89254065111
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])=[C:11][H:12].[H:1][C:2][C:3]([H:4])([H:13])[H:14]>>[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.07741079755
[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.83965206384
[C:1]#[C:2][H:3].[O:4][C:5][C:6]>>[C:1]=[C:2]([H:3])[O:4][C:5]#[C:6],0.1372124825
[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:4]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.42853887931
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],6.960582458039999
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],-1.00112251698
[C:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13].[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13],-3.85284650633
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[O:10][H:11].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[O:10][H:11],-0.901479277978
[O:1]=[C:2]([H:3])[O:4][C:5][H:6]>>[C:2]([H:3])[O:4][C:5][H:6].[O:1],8.25380439501
[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[H:5].[O:1][O:2][C:3]([H:4])[C:6]#[C:7][H:8],3.32473782111
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])=[C:11]([H:12])[H:13],-1.67646063336
[C:1]#[C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]#[C:4][C:6]([H:7])([H:8])[H:9].[C:3]([H:5])[C:10]([H:11])([H:12])[H:13],5.5339442185
[H:1][C:2]#[C:3][C@:4]([O:5][H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],0.87897149176
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],4.96606331002
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][O:9].[H:7],2.9101679141
[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.91782143948
[C:3]([H:4])#[C:5][O:6][H:7].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][H:7],-0.25958963450100003
[H:1][C:2]([H:3])=[C:4]([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][C:13]([H:14])([H:15])[H:16],4.829017832240001
[H:18].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C@:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.3813936297900025
[C:1]#[C:2][C:3]([C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]#[C:4][C:6]([H:7])([H:10])[H:11].[C:3]([H:5])#[C:8][H:9],1.31782221831
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-6.88838536
[H:1][C:2][O:3][C:4]([H:5])[H:6].[H:7]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7],-4.44358206809
[C:1]=[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[O:3]=[C:4][C:5]([H:6])([H:7])[H:8],-0.254278598821
